US09315513B2
Step 3: Preparation of 4-nitro-5-acetylaminoindazole
By referring to the Step 4 of Example 1, 5-acetylaminoindazole (6 g, 34.2 mmol), HNO3 (2.0 mL, 48 mmol), were used to obtain a product (6.9 g, 91.7%).

reactant | 5-acetylaminoindazole | 34.2 mmol, 6 g | C(C)(=O)NC=1C=C2C=NNC2=CC1 | C9H9N3O
reactant | HNO3 | 48 mmol, 2.0 mL | [N+](=O)(O)[O-] | HNO3
product | 4-nitro-5-acetylaminoindazole | 6.9 g, 91.7% | [N+](=O)([O-])C1=C2C=NNC2=CC=C1NC(C)=O | C9H8N4O3
